US07781436B2
N-(2-Amino-ethyl)-2-{6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetamide
Following general procedure I, the coupling of {6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid (preparation described herein), with (commercially available) (2-amino-ethyl)-carbamic acid tert-butyl ester gave, after treatment with HCl and neutralisation, the title compound.

reactant | {6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H19ClFN3O3
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | HCl | Cl | ClH
product | N-(2-Amino-ethyl)-2-{6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetamide | NCCNC(CN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F)=O | C23H25ClFN5O2
